US07439370B2
1b) dimethyl 2-bromo-1-(3-methyl-2-buten-1-yl)-1H-imidazole-4,5-dicarboxylate
A mixture of 12.20 g (46 mmol) dimethyl 2-bromo-imidazole-4,5-dicarboxylate, 7.16 g (48 mmol) 1-bromo-3-methyl-2-butene and 7.19 g (52 mmol) potassium carbonate in 150 ml of dimethylformamide were stirred for two hours at 50° C. Then 100 ml of water were added, and the mixture was extracted three times with ethyl acetate. The extracts were dried and evaporated down. The crude product thus obtained was purified by column chromatography (silica gel; eluant: cyclohexane/ethyl acetate 4:1->2:1).

reactant | dimethyl 2-bromo-imidazole-4,5-dicarboxylate | 46 mmol, 12.20 g | BrC=1NC(=C(N1)C(=O)OC)C(=O)OC | C7H7BrN2O4
reactant | 1-bromo-3-methyl-2-butene | 48 mmol, 7.16 g | BrCC=C(C)C | C5H9Br
reactant | potassium carbonate | 52 mmol, 7.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | dimethyl 2-bromo-1-(3-methyl-2-buten-1-yl)-1H-imidazole-4,5-dicarboxylate | BrC=1N(C(=C(N1)C(=O)OC)C(=O)OC)CC=C(C)C | C12H15BrN2O4
